US05252732
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(1-(3-t-butyldimethylsilyloxypropyl)indol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of tri[1-(3-t-butyldimethylsilyloxypropyl)-indol-5-yl] bismuthine (0.43 gm, 0.4 mmol.) in CH2Cl2 (4 mL.) at room temperature was added peracetic acid (0.075 mL., 32% in acetc acid) followed in 15 minutes by 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (350 mg., 0.44 mmol.) and Cu(OAc)2 (30 mg.). The reaction mixture was stirred for 2 days. The reaction was then quenched with saturated NaHCO3 and the mixture extracted with CH2Cl2. The organic extracts were combined, dried over Na2SO4, filtered, and concentrated in vacuo. The product was isolated and purified by preparative TLC on silica gel (3:1, hexane/acetone) to give 144 mg. of the title compound.

reactant | tri[1-(3-t-butyldimethylsilyloxypropyl)-indol-5-yl] bismuthine | 0.4 mmol, 0.43 gm | [Si](C)(C)(C(C)(C)C)OCCCN1C=CC2=CC(=CC=C12)[Bi](C=1C=C2C=CN(C2=CC1)CCCO[Si](C)(C)C(C)(C)C)C=1C=C2C=CN(C2=CC1)CCCO[Si](C)(C)C(C)(C)C
reactant | peracetic acid | 0.075 mL | C(C)(=O)OO | C2H4O3
reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.44 mmol, 350 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 30 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(1-(3-t-butyldimethylsilyloxypropyl)indol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC=2C=C1C=CN(C1=CC2)CCCO[Si](C)(C)C(C)(C)C)OC)C)C)O)=O | C60H94N2O13Si
